US08193189B2
4-(4-Bromo-pyrazol-1-yl)-1-cyclopropyl-piperidine
Acetic acid (1.258 ml, 21.98 mmol) is added dropwise, under stirring at RT, to a solution of 4-(4-Bromo-pyrazol-1-yl)-piperidine (as obtained in preparation 89, 1.686 g, 7.327 mmol) and [(1-ethoxy-1-cyclopropyl)oxy]trimethylsilane (2.210 ml, 10.99 mmol) in MeOH (20 ml). Sodium cyanoborohydride (775 mg, 11.7) is then added in one portion at RT. The mixture is then heated at 60° C. for 3 h. After cooling, the reaction mixture is concentrated in vacuo and the residue dissolved in EtOAc and diluted with saturated NaHCO3. After separation, the aqueous phase is re-extracted 3× with EtOAc. The combined organic layers are washed with brine, dried over Na2SO4, filtered and the filtrate is concentrated in vacuo. The residue is used without further purification in the next step, and afford the title compound as colorless solid, Rt=0.618 min (Acquity HPLC BEH C18, 2.1×50 mm, 1.7 micron, detection 215 nM, 0.1 min 2% CH3CN in H2O, 2% to 100% CH3CN in H2O in 1.5 min, 0.4 min 100% CH3CN+0.1% TFA, flow rate 1.0 ml/min); MS: 270 (M+1, 79Br)+

reactant | Acetic acid | 21.98 mmol, 1.258 ml | C(C)(=O)O | C2H4O2
reactant | 4-(4-Bromo-pyrazol-1-yl)-piperidine | 7.327 mmol, 1.686 g | BrC=1C=NN(C1)C1CCNCC1 | C8H12BrN3
reactant | [(1-ethoxy-1-cyclopropyl)oxy]trimethylsilane | 10.99 mmol, 2.210 ml | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | Sodium cyanoborohydride | 775 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 20 ml | CO | CH4O
product | 4-(4-Bromo-pyrazol-1-yl)-1-cyclopropyl-piperidine | BrC=1C=NN(C1)C1CCN(CC1)C1CC1 | C11H16BrN3
